US06355653B1
b) 7-(5-Chloro-pyridin-2-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
The title compound, MS m/e (%): 312 (M+H+, 100), was prepared in accordance with the general method of example 1 from 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole and 3-(5-chloro-pyridin-2-yl)-acrylonitrile.

reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | 3-(5-chloro-pyridin-2-yl)-acrylonitrile | ClC=1C=CC(=NC1)C=CC#N | C8H5ClN2
product | 7-(5-Chloro-pyridin-2-yl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | ClC=1C=CC(=NC1)C1=CC=2N(C(=C1)N)N=C(N2)C=2OC=CC2 | C15H10ClN5O
